US06828344B1
3(4-{[2-(3-benzhydryl-6-chloro-1H-indol-1-yl)ethyl]sulfonyl}phenyl)propanoic acid
To a solution of 3-benzhydryl-6-chloro-1H-indole (1.0 eq) in THF (0.1 M), at −78° C., was added a 2.5 M solution of n-butyllithium (1.0 eq). After 0.5 h, the solution was warmed to room temperature and then treated with methyl 3-[4-(vinylsulfonyl)phenyl]propanoate (1.2 eq). The mixture was stirred for 3 h, quenched with saturated ammonium chloride solution, and extracted with ethyl acetate. The organic solution was washed with saturated sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, and evaporated. The crude material was chromatographed with silica gel to give the desired product in 84% yield.

reactant | 3-benzhydryl-6-chloro-1H-indole | 1.0 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CNC2=CC(=CC=C12)Cl | C21H16ClN
reactant | n-butyllithium | 1.0 eq | C(CCC)[Li]
reactant | methyl 3-[4-(vinylsulfonyl)phenyl]propanoate | 1.2 eq | C(=C)S(=O)(=O)C1=CC=C(C=C1)CCC(=O)OC | C12H14O4S
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
product | 3(4-{[2-(3-benzhydryl-6-chloro-1H-indol-1-yl)ethyl]sulfonyl}phenyl)propanoic acid | 84% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CN(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C=C1)CCC(=O)O | C32H28ClNO4S
